US04113938
(c) 3-[4-(p-Chlorophenylimino-methyl)-phenyl]-1,2-benzisoxazole (102):
22.32 g of 3-(p-formylphenyl)-1,2-benzisoxazole, 14.03 g of p-chloroaniline and 0.5 g of boric acid in 160 ml of xylene are refluxed for 2 hours, the water formed being distilled off. The mixture is cooled to 60° C., 500 ml of methanol are added and the resulting mixture is further cooled to -10° C. The product which has precipitated is filtered off with suction, washed with 100 ml of cold methanol and dried. This gives 32 g (96.2% of theory) of compound (102) in the form of pale yellow crystals which melt at 164° to 165° C. After recrystallising twice from toluene, pale yellow crystals with a melting point of 164.5° to 165° C. are obtained.

reactant | 3-(p-formylphenyl)-1,2-benzisoxazole | 22.32 g | C(=O)C1=CC=C(C=C1)C1=NOC2=C1C=CC=C2 | C14H9NO2
reactant | p-chloroaniline | 14.03 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | boric acid | 0.5 g | B(O)(O)O | BH3O3
reactant | water | O | H2O
solvent | xylene | 160 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-[4-(p-Chlorophenylimino-methyl)-phenyl]-1,2-benzisoxazole | ClC1=CC=C(C=C1)N=CC1=CC=C(C=C1)C1=NOC2=C1C=CC=C2 | C20H13ClN2O
